US07098212B2
[(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethylamino}-pyridine-3-carbonyl)-amino]-acetic acid methyl ester
To a suspension of 5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethylamino}-nicotinic acid hydrochloride salt (0.060 g, 0.12 mmol) in dichloromethane (2 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.034 g, 0.18 mmol). The reaction was stirred at ambient temperature for 5 minutes. This was followed by addition of solution of glycine methyl ester hydrochloride (0.015 g, 0.12 mmol) and triethylamine (0.016 mL, 0.12 mmol) in dichloromethane (0.5 mL). The reaction was then stirred at ambient temperature overnight. The reaction was diluted with dichloromethane and washed with water. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (0.030 g).

reactant | 5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethylamino}-nicotinic acid hydrochloride salt | 0.12 mmol, 0.060 g | Cl.ClC=1C=NC(=C(C(=O)O)C1)NCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.18 mmol, 0.034 g | Cl.CN(CCCN=C=NCC)C
reactant | glycine methyl ester hydrochloride | 0.12 mmol, 0.015 g | Cl.COC(CN)=O
reactant | triethylamine | 0.12 mmol, 0.016 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | [(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethylamino}-pyridine-3-carbonyl)-amino]-acetic acid methyl ester | 0.030 g | COC(CNC(=O)C=1C(=NC=C(C1)Cl)NCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C24H29ClFN5O4
